US07915295B2
5-(4-Methanesulfinyl-phenoxy)-2-nitro-pyridine (1.27 g, 4.56 mmol) was dissolved in EtOH (30 ml) and EtOAc (8 ml). Pd/C (10%) (400 mg) was added and the nitro group was reduced to the amine by hydrogenation at atmospheric pressure for 3 h. The catalyst was filtered off and the filtrate was evaporated to give 0.6 g of 5-(4-Methanesulfinyl-phenoxy)-pyridin-2-ylamine.

reactant | 5-(4-Methanesulfinyl-phenoxy)-2-nitro-pyridine | 4.56 mmol, 1.27 g | CS(=O)C1=CC=C(OC=2C=CC(=NC2)[N+](=O)[O-])C=C1 | C12H10N2O4S
solvent | EtOH | 30 ml | CCO | C2H6O
solvent | EtOAc | 8 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 5-(4-Methanesulfinyl-phenoxy)-pyridin-2-ylamine | 0.6 g | CS(=O)C1=CC=C(OC=2C=CC(=NC2)N)C=C1 | C12H12N2O2S
